US04225723
(d) 1-[2-cyano-2-(2,4-dichlorophenyl)hexyl]imidazole hydrochloride
A mixture of 2-cyano-2-(2,4-dichlorophenyl)hexyl methane sulfonate (100 g., 0.29 mole), imidazole (100 g., 1.5 mole) and N,N-dimethylformamide (5 ml.) is heated with stirring at 135° C. overnight. The reaction mixture is poured into water and extracted with ether. The combined ether extracts are dried over magnesium sulfate. The drying agent is filtered and into the ethereal solution is bubbled dry hydrogen chloride gas. The white solid which precipitates is collected and dried to give 70.4 g. (68%) of the expected product, which is identified by nmr.

reactant | 2-cyano-2-(2,4-dichlorophenyl)hexyl methane sulfonate | 0.29 mole, 100 g | CS(=O)(=O)OCC(CCCC)(C1=C(C=C(C=C1)Cl)Cl)C#N | C14H17Cl2NO3S
reactant | imidazole | 1.5 mole, 100 g | N1C=NC=C1 | C3H4N2
reactant | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 1-[2-cyano-2-(2,4-dichlorophenyl)hexyl]imidazole hydrochloride | 68% | Cl.C(#N)C(CN1C=NC=C1)(CCCC)C1=C(C=C(C=C1)Cl)Cl | InChI=1S/C16H17Cl2N3.ClH/c1-2-3-6-16(10-19,11-21-8-7-20-12-21)14-5-4-13(17)9-15(14)18;/h4-5,7-9,12H,2-3,6,11H2,1H3;1H
